US08022206B2
7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(3,6-dihydro-2H-thiopyran-4-yl)-furo[3,2-c]pyridin-6-ylamine
The title compound was prepared according to General procedure A with starting materials 3-Bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-6-ylamine and 2-(3,6-Dihydro-2H-thiopyran-4-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane. 1H-NMR (CDCl3, 400 MHz): 6=1.79 (d, J=6.8 Hz, 3H), 2.47-2.68 (m, 2H), 2.82 (t, J=5.8 Hz, 2H), 3.20-3.46 (m, 2H), 4.68 (br. s., 2H), 6.31-6.38 (m, 1H), 6.44 (q, J=6.7 Hz, 1H), 6.97 (t, J=8.5 Hz, 1H), 7.30 (s, 1H), 8.14 (s, 1H). MS (ES+): m/z (MH+, 35Cl, 37Cl), 440.94 (MH+, 37Cl, 37Cl). HPLC: tR=3.69 min (polar—5 min, ZQ3).

reactant | 3-Bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-6-ylamine | BrC1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C15H10BrCl2FN2O2
reactant | 2-(3,6-Dihydro-2H-thiopyran-4-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | S1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO2S
product | 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(3,6-dihydro-2H-thiopyran-4-yl)-furo[3,2-c]pyridin-6-ylamine | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCSCC2 | C20H17Cl2FN2O2S
